US07935688B2
(2) Synthesis of 2-(4-{1-ethyl-1-[3-methyl-4-(1-trimethylsilanyloxy-cycloheptylethynyl)-phenyl]-propyl}-2-methyl-phenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane
Trifluoromethanesulfonic acid trimethylsilyl ester (0.37 mL, 2.04 mmol) was added to a solution of the mixture containing 1-(4-{1-ethyl-1-[3-methyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-propyl}-2-methyl-phenylethynyl)-cycloheptanol (529 mg) and pyridine (0.42 mL, 5.19 mmol) in dichloromethane (4.0 mL) at 0° C., and the mixture was stirred at the same temperature for 90 minutes. An ammonium chloride solution was added to the reaction mixture, followed by extraction with ethyl acetate. The extract was concentrated under reduced pressure. The residue was purified by silica gel chromatography (hexane:ethyl acetate=100:0 to 80:20) to give the target compound as a colorless oil (183 mg, 28% in three steps).

reactant | Trifluoromethanesulfonic acid trimethylsilyl ester | 2.04 mmol, 0.37 mL | C[Si](C)(C)OS(=O)(=O)C(F)(F)F | C4H9F3O3SSi
reactant | 1-(4-{1-ethyl-1-[3-methyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-propyl}-2-methyl-phenylethynyl)-cycloheptanol | 529 mg | C(C)C(CC)(C1=CC(=C(C=C1)B1OC(C(O1)(C)C)(C)C)C)C1=CC(=C(C=C1)C#CC1(CCCCCC1)O)C | C34H47BO3
reactant | pyridine | 5.19 mmol, 0.42 mL | N1=CC=CC=C1 | C5H5N
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dichloromethane | 4.0 mL | ClCCl | CH2Cl2
product | 2-(4-{1-ethyl-1-[3-methyl-4-(1-trimethylsilanyloxy-cycloheptylethynyl)-phenyl]-propyl}-2-methyl-phenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane | 183 mg, 28% | C(C)C(CC)(C1=CC(=C(C=C1)C#CC1(CCCCCC1)O[Si](C)(C)C)C)C1=CC(=C(C=C1)B1OC(C(O1)(C)C)(C)C)C | C37H55BO3Si
